US09428452B2
N-(2,4-dimethylphenyl)-4-(2-(hydroxymethyl)morpholino)-N-isobutylbenzenesulfonamide
To a solution of morpholin-2-ylmethanol (30 mg, 0.256 mmol) in tetrahydrofuran (THF) (3 mL) stirred under nitrogen at room temperature was added triethylamine (0.071 mL, 0.512 mmol) dropwise. The reaction mixture was stirred at room temperature for 10 minutes then N-(2,4-dimethylphenyl)-4-fluoro-N-isobutylbenzenesulfonamide (86 mg, 0.256 mmol) was added. The reaction mixture was stirred at room temperature overnight. LCMS analysis showed no product, so the solvent was removed under a stream of nitrogen and the crude treated with LiHMDS (1M in THF, 0.768 mL, 0.768 mmol) and THF (2 mL). The reaction vessel was sealed and heated by microwaves (Biotage Initiator) to 150° C. for 30 minutes. After cooling, LCMS analysis showed some conversion, so the reaction vessel was resealed and reheated by microwaves (Biotage Initiator) to 150° C. for a further 30 minutes. No further conversion was seen by LCMS, so ethyl acetate (10 mL) was added to the mixture and the organic phase washed with water (10 mL) then dried using a hydrophobic frit. Solvent was removed under a stream of nitrogen to give the crude product. The crude was purified by mass directed autoprep (ammonium carbonate modifier). The relevant fractions were concentrated under a stream of nitrogen to give the required product, 4 mg. LCMS [LCMS2] Rt 1.29 min, m/z (ES+) 433 (M+H).

reactant | morpholin-2-ylmethanol | 0.256 mmol, 30 mg | N1CC(OCC1)CO | C5H11NO2
reactant | triethylamine | 0.512 mmol, 0.071 mL | C(C)N(CC)CC | C6H15N
reactant | N-(2,4-dimethylphenyl)-4-fluoro-N-isobutylbenzenesulfonamide | 0.256 mmol, 86 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)F)CC(C)C | C18H22FNO2S
reactant | LiHMDS | 0.768 mmol, 1M, 0.768 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | THF | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-(2,4-dimethylphenyl)-4-(2-(hydroxymethyl)morpholino)-N-isobutylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)N1CC(OCC1)CO)CC(C)C | C23H32N2O4S
